US06017918
Intermediate 10: Ethyl (3,5-di-t-butyl-4-hydroxyphenyl)-acetate
In ethanol (60 mL) was dissolved 3,5-di-t-butyl-4-hydroxyphenyl-acetic acid (8.0 g, 30.3 mmol). The solution was saturated with HCl gas and stirred at room temperature for 18 hours. The mixture was evaporated in vacuo and the residue was dissolved in ethyl acetate (100 mL). The organic phase was washed with water (100 mL) and then brine (100 mL). The organic phase was dried over magnesium sulfate and evaporated in vacuo to give 7.95 g (90%) of the product as an oil.

reactant | 3,5-di-t-butyl-4-hydroxyphenyl-acetic acid | 30.3 mmol, 8.0 g | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)CC(=O)O | C16H24O3
reactant | HCl | Cl | ClH
reactant | ethanol | 60 mL | C(C)O | C2H6O
product | Ethyl (3,5-di-t-butyl-4-hydroxyphenyl)-acetate | 7.95 g, 90% | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)CC(=O)OCC | C18H28O3
